* source PWM_TRI_3PH_SUBCKT
*$
.SUBCKT PWM_TRI_3PH_SUBCKT GA1 GA2 GB1 GB2 GC1 GC2 vcA vcB vcC
+ params: fs=1kHz
V_Vtri         VTRI 0  
+PULSE -1 1 0 {(1/fs-0.2u)/2} {(1/fs-0.2u)/2} 0.1u {1/fs}
E_E1         GA1 0 TABLE { V(VCA, VTRI) } 
+ ( (-1,-1)(-0.005,-1)(0,0)(0.005,1)(1,1) )
E_E3         GC1 0 TABLE { V(VCC, VTRI) } 
+ ( (-1,-1)(-0.005,-1)(0,0)(0.005,1)(1,1) )
E_E2         GB1 0 TABLE { V(VCB, VTRI) } 
+ ( (-1,-1)(-0.005,-1)(0,0)(0.005,1)(1,1)) )
E_ABM3         GC2 0 VALUE { 1-V(GC1)    }
E_ABM2_ph2         GB2 0 VALUE { 1-V(GB1)    }
E_ABM1_PH1         GA2 0 VALUE { 1-V(GA1)    }
.ENDS   PWM_TRI_3PH_SUBCKT
*$
