* source SCR_SUBCKT
*$
.SUBCKT SCR_SUBCKT A G K params: state=0
H_H1         0 N00261 VH_H1 1
VH_H1        N00111 K 0V
d_D1         N000032, N00111, mod_D1 
.model        mod_D1 d (rs=1m)
s_S1         A,N000032,N00096,0, mod_S1 
.model      mod_S1 vswitch (ron=1m]
R_Rg         G N00073  1.0  
R_R1         N00076 N00261  1.0  
C_C3         N00076 0  1uF  
C_Cg         N00073 0  1uF IC={state} 
E_E1         N00096 0 TABLE { V(N00073, N00076) } 
+ ( (-1.0,0) (0,0) (0.1,1) (1,1) )
.ENDS   SCR_SUBCKT
*$
