* source THY_TRIG_SUBCKT
*$
.SUBCKT THY_TRIG_SUBCKT c p v params: f=60
E_ABM1         N00062 0 VALUE { IF(V(V)>0,1,-5)    }
E_ABM2         N00323 0 VALUE { IF(V(V)>0|V(N00073)>0,V(N00062),0)    }
G_INTEG1         0 $$U_INTEG1 VALUE {V(N00323)} 
C_INTEG1       $$U_INTEG1 0 {1/{2*f}} 
R_INTEG1       $$U_INTEG1 0 1G 
E_INTEG1       N00073 0 VALUE {V($$U_INTEG1)} 
.IC      V($$U_INTEG1) = 0v
E_ABM3         N00117 0 VALUE { IF(V(N00073)>V(C),1,0)    }
E_ABM4         P 0 VALUE { IF(V(N00117)>0 & V(N00129)<0.5 , 1 ,0)    }
R_R1         N00117 N00129  5k  
C_C1         N00129 0  100nF  
.ENDS   THY_TRIG_SUBCKT
*$
